US06177419B1
11) Preparation of 2-Hydroxy-5-methoxyphenylboronic acid
2-(2-Bromo-4-methoxyphenoxy)tetrahydropyran (1.9 g, 6.62 mmol) was dissolved in dry THF (25 ml) and the solution cooled to −78° C. under nitrogen. n-Butyl lithium (1.6M in hexanes, 4.6 ml, 7.36 mmol) was added dropwise with stirring over 10 minutes. The reaction was stirred at −78° C. for 1 hour. Triisopropoxy borane (1.6 ml, 6.9 mmol) was added dropwise and the mixture allowed to warm to room temperature overnight. The reaction was quenched with water, acidified to pH 1 with 2N hydrochloric acid and extracted with DCM (2×200 ml). The combined organic extracts were washed with 2N hydrochloric acid (50 ml), dried with magnesium sulphate and concentrated under vacuum. The oily solid produced was triturated with cyclohexane to give the title compound as a pale brown solid (660 mg, 59%); MS 166/167 (M-H)−; HPLC retention time (system 2) 3.53 minutes.

reactant | 2-(2-Bromo-4-methoxyphenoxy)tetrahydropyran | 6.62 mmol, 1.9 g | BrC1=C(OC2OCCCC2)C=CC(=C1)OC | C12H15BrO3
reactant | n-Butyl lithium | 7.36 mmol, 1.6M, 4.6 ml | C(CCC)[Li]
reactant | Triisopropoxy borane | 6.9 mmol, 1.6 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-Hydroxy-5-methoxyphenylboronic acid | 660 mg, 59% | OC1=C(C=C(C=C1)OC)B(O)O | C7H9BO4
